US08877782B2
5-Methanesulfinyl-2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine
To a solution of 2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-5-methylsulfanyl-pyridine (70 mg, 0.22 mmol) in dichloromethane (2.1 mL) was added 2-benzenesulfonyl-3-phenyl-oxaziridine (58.5 mg, 0.22 mmol) and the reaction mixture was stirred overnight at room temperature. The mixture was then evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate 8:2 to 1:3) afforded the title compound (70 mg, 95%) as a white solid. MS: m/e=329.2 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-5-methylsulfanyl-pyridine | 0.22 mmol, 70 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C=C1)SC | C17H16N2O2S
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 0.22 mmol, 58.5 mg | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 2.1 mL | ClCCl | CH2Cl2
product | 5-Methanesulfinyl-2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine | 70 mg, 95% | CS(=O)C=1C=CC(=NC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C17H16N2O3S
